US06177440B1
A solution of the {9-[(2-chlorophenyl)methyl]-5-carbamoylcarbazol-4-yl}oxyacetic acid, tert-butyl ester (46 mg, 0.1 mM) in 3 mL of trifluoroacetic acid was stirred at room temperature for 2 hours. The solvent was removed in vacuo. The residue was triturated with diethyl ether/hexanes, then dried in vacuo to afford 40 mg (98%) of the {9-[(2-chlorophenyl)methyl]-5-carbamoylcarbazol-4-yl}oxyacetic acid as a white powder. 1H NMR (DMSO-d6) δ 12.9 (br s, 1H), 7.55 (s, 1H), 7.5 (d, 1H, J=8 Hz), 7.45 (s, 1H), 7.4-7.3 (m, 3H), 7.25 (t, 1H, J=8 Hz), 7.1-7.0 (m, 3H), 6.6 (d, 1H, J=8 Hz), 6.3 (d, 1H, J=8 Hz), 5.7 (s, 2H), and 4.8 (s, 2H). IR (KBr, cm−1) 3430, 1735, and 1635. MS (ES) m/e 407, 409.

reactant | {9-[(2-chlorophenyl)methyl]-5-carbamoylcarbazol-4-yl}oxyacetic acid, tert-butyl ester | 0.1 mM, 46 mg | ClC1=C(C=CC=C1)CN1C2=CC=CC(=C2C=2C(=CC=CC12)OCC(=O)OC(C)(C)C)C(N)=O | C26H25ClN2O4
solvent | trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
product | {9-[(2-chlorophenyl)methyl]-5-carbamoylcarbazol-4-yl}oxyacetic acid | 40 mg, 98% | ClC1=C(C=CC=C1)CN1C2=CC=CC(=C2C=2C(=CC=CC12)OCC(=O)O)C(N)=O | C22H17ClN2O4
